US08497381B2
Step 4: (4S,5R)-5-(3,5-Bis-trifluoromethyl-phenyl)-4-methyl-oxazolidin-2-one
To [(S)-2-(3,5-bis-trifluoromethyl-phenyl)-2-hydroxy-1-methyl-ethyl]-carbamic acid benzyl ester (11.9 mmol) was added 7.5N aqueous KOH:THF:MeOH (1:4:2; 60 mL), and the reaction was stirred at room temperature for 3 hours. Once no starting material was seen by analytical LCMS, the mixture was diluted with EtOAc and brine, and the organic layer was separated and purified by silica gel chromatography to give the title compound.

reactant | [(S)-2-(3,5-bis-trifluoromethyl-phenyl)-2-hydroxy-1-methyl-ethyl]-carbamic acid benzyl ester | 11.9 mmol | C(C1=CC=CC=C1)OC(N[C@H](C(O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C)=O | C19H17F6NO3
reactant | KOH THF MeOH | 7.5N, 60 mL | [OH-].[K+].C1CCOC1.CO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | (4S,5R)-5-(3,5-Bis-trifluoromethyl-phenyl)-4-methyl-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](NC(O1)=O)C)(F)F | C12H9F6NO2
